US07750014B2
Methyl [4-chloro-6-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (100 mg, 0.19 mmol) was treated with 50% trifluoroacetic acid/dichloromethane (5 mL) at room temperature overnight. The mixture was poured into water and extracted with dichloromethane. The extracts were washed with aq NaHCO3 and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was dissolved in dichloromethane (5 mL). To the solution was added trifluoroacetic anhydride (0.053 mL, 0.38 mmol). The mixture was stirred at room temperature for 3 hours. The mixture was poured into water and extracted with dichloromethane. The extracts were washed with aq NaHCO3 and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by preparative TLC (silica gel, chloroform:ethanol, 19/1) to give methyl [7-chloro-5-(4-nitrobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate (22 mg, 25%) as a colorless film.

reactant | Methyl [4-chloro-6-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 0.19 mmol, 100 mg | ClC1=NC(=NC(=C1CC(=O)OC)NCC(OC)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H21ClN4O6
reactant | trifluoroacetic acid dichloromethane | 5 mL | FC(C(=O)O)(F)F.ClCCl
reactant | trifluoroacetic anhydride | 0.38 mmol, 0.053 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | methyl [7-chloro-5-(4-nitrobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate | 22 mg, 25% | ClC1=C(C=2N(C(=N1)CC1=CC=C(C=C1)[N+](=O)[O-])C=CN2)CC(=O)OC | C16H13ClN4O4
